US05190959
Into 35 ml of dichloromethane were dissolved 2.67 g of 4-diphenylmethoxypiperidine, 2.93 g of 1-chloro-4-(2-nitrophenoxy)-2-butyne and 1.68 g of N,N-diisopropylethylamine, and the resultant solution was stirred at room temperature for 20 hours. The reaction solution was washed with water, and the solvent was removed under reduced pressure. The residue was eluted with ethyl acetate by silica gel column chromatography to give 2.95 g of oily 4-diphenylmethoxy-1-[4-(2-nitrophenoxy)-2-butynyl]piperidine.

reactant | 4-diphenylmethoxypiperidine | 2.67 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 1-chloro-4-(2-nitrophenoxy)-2-butyne | 2.93 g | ClCC#CCOC1=C(C=CC=C1)[N+](=O)[O-] | C10H8ClNO3
reactant | N,N-diisopropylethylamine | 1.68 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 4-diphenylmethoxy-1-[4-(2-nitrophenoxy)-2-butynyl]piperidine | 2.95 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CC#CCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C28H28N2O4
